US04818761
(c) Preparation of 1-phenyl-2-(4-pyridylaminomethyl)-5-chloro-6-ethylbenzimidazole hydrochloride
A mixture of 1-phenyl-2-chloromethyl-5-chloro-6-ethylbenzimidazole (1.7 g, 5.5 mmol) prepared in the preceding step (b), 4-aminopyridine (1.8 g, 10.3 mmol) and ethanol (10.8 ml) was refluxed for 1.5 hours, then the mixture was filtered and the filtrate was concentrated in vacuo and crystallized from acetone (1.0 g, 2.35 mmol) and recrystallized from ethanol, then the objective compound (0.35 g, 0.82 mmol) was obtained.

reactant | 1-phenyl-2-chloromethyl-5-chloro-6-ethylbenzimidazole | 5.5 mmol, 1.7 g | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C(=C2)Cl)CC)CCl | C16H14Cl2N2
reactant | 4-aminopyridine | 10.3 mmol, 1.8 g | NC1=CC=NC=C1 | C5H6N2
reactant | acetone | 2.35 mmol, 1.0 g | CC(=O)C | C3H6O
solvent | ethanol | 10.8 ml | C(C)O | C2H6O
product | 1-phenyl-2-(4-pyridylaminomethyl)-5-chloro-6-ethylbenzimidazole hydrochloride | 0.82 mmol, 0.35 g | Cl.C1(=CC=CC=C1)N1C(=NC2=C1C=C(C(=C2)Cl)CC)CNC2=CC=NC=C2 | InChI=1S/C21H19ClN4.ClH/c1-2-15-12-20-19(13-18(15)22)25-21(14-24-16-8-10-23-11-9-16)26(20)17-6-4-3-5-7-17;/h3-13H,2,14H2,1H3,(H,23,24);1H
